US07906517B2
2-[(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidine-5-carboxylic acid (200 mg) is dissolved in N,N-dimethylformamide (5 ml) and thereto are added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (86 mg), 1-hydroxy-benzotriazole (60 mg), triethylamine (125 μl) and 4-aminobutyric acid ethyl ester hydrochloride (75 mg), and the mixture is stirred at room temperature overnight. To reaction mixture is added a saturated aqueous sodium bicarbonate solution and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=5:2) to give ethyl 4-({2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidine-5-carbonyl}-amino)-butyrate (230 mg). MS (m/z): 785 [M+H]+

reactant | 2-[(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidine-5-carboxylic acid | 200 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)C(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C32H26F9N3O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 86 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-benzotriazole | 60 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-aminobutyric acid ethyl ester hydrochloride | 75 mg | Cl.C(C)OC(CCCN)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 125 μl | C(C)N(CC)CC | C6H15N
product | ethyl 4-({2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidine-5-carbonyl}-amino)-butyrate | 230 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)C(=O)NCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C38H37F9N4O4
